US05210247
About 15.9 g (0.082 Mol) of 4-(5-hexenyl)-1-chlorobenzene were dissolved in 10 ml of toluene, 0.8 ml of a 1 percent solution of dicyclopentadienylplatinum dichloride in dichloromethane (corresponding to 100 ppm of Pt) were added, and the mixture was introduced into a 100 ml bench autoclave. About 10 g (0.147 Mol) of trimethylsilane in the condensed state were added, the autoclave was sealed, and 5 MPa of nitrogen were injected. The mixture was warmed at 70° to 80° C. for 90 minutes (8 MPa, internal stirring). The mixture was then cooled, the solvent was stripped off, and the resultant residue fractionated. About 17.6 g of 4-(1-trimethylsilylhexyl)-1-chlorobenzene, corresponding to 77.1 percent of theory, were obtained at 0.1 hPa and at a boiling range of 107° to 112° C.

reactant | 4-(5-hexenyl)-1-chlorobenzene | 0.082 Mol, 15.9 g | C(CCCC=C)C1=CC=C(C=C1)Cl | C12H15Cl
reactant | trimethylsilane | 0.147 Mol, 10 g | C[SiH](C)C | C3H10Si
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dicyclopentadienylplatinum dichloride | C1(C=CC=C1)[Pt](C1C=CC=C1)(Cl)Cl
product | 4-(1-trimethylsilylhexyl)-1-chlorobenzene | 17.6 g | C[Si](C(CCCCC)C1=CC=C(C=C1)Cl)(C)C | C15H25ClSi
